US09376418B2
3-Methyl-5-(pyridin-3-yl)aniline (50.7 mg, 0.275 mmol) was added a solution of tert-Butyl 4-[(2-chloropyrimidin-4-yl)oxy]piperidine-1-carboxylate (72.0 mg, 0.229 mmol) in dioxane (486 μL). The reaction mixture was flushed and purged with Ar(g) followed by the addition of Pd(OAc)2 (5.15 mg, 0.023 mmol) and Xantphos (19.9 mg, 0.034 mmol). The reaction was heated to 75° C. overnight and then cooled to room temperature. The reaction mixture was diluted with water and extracted with dichloromethane. The organic was dried over sodium sulfate and was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (10% MeOH in DCM:hexanes, 10:90 to 50:50) to yield tert-butyl 4-[(2-{[3-methyl-5-(pyridin-3-yl)phenyl]amino}pyrimidin-4-yl)oxy]piperidine-1-carboxylate.

reactant | 3-Methyl-5-(pyridin-3-yl)aniline | 0.275 mmol, 50.7 mg | CC=1C=C(N)C=C(C1)C=1C=NC=CC1 | C12H12N2
reactant | tert-Butyl 4-[(2-chloropyrimidin-4-yl)oxy]piperidine-1-carboxylate | 0.229 mmol, 72.0 mg | ClC1=NC=CC(=N1)OC1CCN(CC1)C(=O)OC(C)(C)C | C14H20ClN3O3
reactant | Xantphos | 0.034 mmol, 19.9 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | dioxane | 486 μL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | Pd(OAc)2 | 0.023 mmol, 5.15 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | tert-butyl 4-[(2-{[3-methyl-5-(pyridin-3-yl)phenyl]amino}pyrimidin-4-yl)oxy]piperidine-1-carboxylate | CC=1C=C(C=C(C1)C=1C=NC=CC1)NC1=NC=CC(=N1)OC1CCN(CC1)C(=O)OC(C)(C)C | C26H31N5O3
